US08138187B2
3-Benzyl-2-triethylsilanyl-1H-indole2-Iodoaniline (5.48 g, 25.02 mmol), triethyl-(3-phenylprop-1-ynyl)silane (6.34 g, 27.51 mmol), lithium chloride (1.11 g, 26.19 mmol) and sodium carbonate (7.95 g, 75.01 mmol) were combined in dimethylformamide (absolute, 70 ml) in an argon atmosphere. The catalyst ([Pd(dppf)Cl2×CH2Cl2], 2.05 g, 2.51 mmol) was then added. The solution was stirred at 100-106° C. for 6 h. The black reaction mixture was cooled to room temperature and water (300 ml) and ethyl acetate (150 ml) were added in succession. After stirring for one hour, the mixture was filtered over Celite. The phases were separated. The aqueous phase was extracted with ethyl acetate (3×50 ml). The combined organic phases were dried with sodium sulfate. After filtration, the volatile constituents were removed completely in vacuo. The residue (10.5 g of brown oil) was purified by chromatography [silica gel 60 (300 g); cyclohexane/ethyl acetate 10:1 (2,200 ml)]. 3-Benzyl-2-triethylsilanyl-1H-indole was isolated as a brown oil (6.44 g, (80%).

reactant | triethyl-(3-phenylprop-1-ynyl)silane | 27.51 mmol, 6.34 g | C(C)[Si](C#CCC1=CC=CC=C1)(CC)CC | C15H22Si
reactant | lithium chloride | 26.19 mmol, 1.11 g | [Cl-].[Li+]
reactant | sodium carbonate | 75.01 mmol, 7.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
product | 3-Benzyl-2-triethylsilanyl-1H-indole | C(C1=CC=CC=C1)C1=C(NC2=CC=CC=C12)[Si](CC)(CC)CC | C21H27NSi
